US08076329B2
To a solution of 1-(3-{[4′-(piperidinocarbonyl)biphenyl-4-yl]oxy}propyl)-piperidine (500 mg) in tetrahydrofuran (20 mL) is added lithium aluminium hydride (105 mg). The suspension is stirred at room temperature for three hours, then hydrolysed through the successive addition of water (110 μL), 15% aqueous solution of sodium hydroxide (110 μL) and water (330 μL). The mixture is stirred for an half hour and filtrated. The filtrate is dried over magnesium sulfate and concentrated under reduced pressure. The product thus obtained is recrystallized in diisopropyl oxide and purified by chromatography over silica gel with a gradient dichloromethane/methanol from 98/2 to 85/15. Fraction containing the expected product are pooled, concentrated under reduced pressure to give 125 mg of 1-(3-{[4′-(piperidinomethyl)biphenyl-4-yl]oxy}propyl)piperidine as white crystals melting at 90° C.

reactant | 1-(3-{[4′-(piperidinocarbonyl)biphenyl-4-yl]oxy}propyl)-piperidine | 500 mg | N1(CCCCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C26H34N2O2
reactant | lithium aluminium hydride | 105 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 110 μL | O | H2O
reactant | sodium hydroxide | 110 μL | [OH-].[Na+]
reactant | water | 330 μL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(3-{[4′-(piperidinomethyl)biphenyl-4-yl]oxy}propyl)piperidine | 125 mg | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C26H36N2O
